US07410631B2
Example 10 describes the preparation of aluminum phosphate sol containing Au nanoparticles. A solution of aluminum s-butoxide (0.19 gm, 0.77 mmol) in methoxyethanol (0.5 ml) is prepared in a vial. It is stirred for 1 hr after addition of mercaptopropyl trimethoxysilane (0.0013 gm, 0.007 mmol). After adding phenyltrimethoxysilane (0.13 gm, 0.66 mmol) and ethylphosphate (0.14 gm, 0.77 mmol), the solution is stirred for another 1 hr. After wrapping the vial with an aluminum foil, the solution is stirred in the presence of gold (III) hydroxide (0.0035 gm, 0.014 mmol) for 3 hrs. Finally, DI water (0.065 gm, 3.6 mmol) is added and the resulting solution is stirred for 48 hrs. The solution is then exposed to sunlight while stirring to form a deep wine red solution, indicating the formation of Au nanoparticles. A thin film formed by casting on a glass plate is clear wine-red. Removal of the volatiles in vacuo followed by heat-treatment in an oven at 130° C./1 hr gives deep wine-red residues (0.18 gm). The dried sol powder (0.04 gm) is stirred in the presence of methoxyethanol (0.5 ml) and phenyltrimethoxysilane (0.01 gm) at 120° C./2 hrs to give a clear wine-red solution that shows no changes in color or optical clarity when allowed to store for over 9 months at room temperature.

reactant | aluminum phosphate | P(=O)([O-])([O-])[O-].[Al+3]
reactant | phenyltrimethoxysilane | 0.66 mmol, 0.13 gm | C1(=CC=CC=C1)[Si](OC)(OC)OC | C9H14O3Si
reactant | ethylphosphate | 0.77 mmol, 0.14 gm | C(C)OP(=O)([O-])[O-]
reactant | aluminum | [Al] | Al
reactant | DI water | 3.6 mmol, 0.065 gm | O | H2O
solvent | methoxyethanol | 0.5 ml | COC(C)O | C3H8O2
catalyst | gold (III) hydroxide | 0.014 mmol, 0.0035 gm | [OH-].[Au+3].[OH-].[OH-]
catalyst | mercaptopropyl trimethoxysilane | 0.007 mmol, 0.0013 gm | SCCC[Si](OC)(OC)OC | C6H16O3SSi
product | aluminum s-butoxide | 0.77 mmol, 0.19 gm | CCC(C)[O-].CCC(C)[O-].CCC(C)[O-].[Al+3] | InChI=1S/3C4H9O.Al/c3*1-3-4(2)5;/h3*4H,3H2,1-2H3;/q3*-1;+3
